US05589536
5-methyl-2-methyl vinylidenefuran;
furfurylidene acetone, 5-methyl-2-furfurylidene, acetone,

reactant | furfurylidene acetone | C(C1=CC=CO1)=CC(C)=O | C8H8O2
reactant | acetone | CC(=O)C | C3H6O
product | 5-methyl-2-methyl vinylidenefuran | CC1=CCC(O1)=C=CC | C8H10O
